US08212045B2
2-Bromopyridin-3-yl acetate (10 g, 46 mmol) was dissolved in THF (80 mL) and triethylamine (32 ml, 231 mmol), ethynyltrimethylsilane (19.5 ml, 139 mmol), and CuI (0.44 g, 2.3 mmol) were added. The mixture was degassed with argon for 15 minutes, then PdCl2(PPh3)2 (1.6 g, 2.3 mmol) was added and the mixture was stirred under argon at ambient temperature for 18 hours. The reaction was concentrated in vacuo, dissolved in 25% EtOAc in hexanes, filtered and purified over silica gel (25% ethyl acetate/hexanes) to afford 2-((trimethylsilyl)ethynyl)pyridin-3-yl acetate (9.7 g, 41 mmol).

reactant | 2-Bromopyridin-3-yl acetate | 46 mmol, 10 g | C(C)(=O)OC=1C(=NC=CC1)Br | C7H6BrNO2
reactant | triethylamine | 231 mmol, 32 ml | C(C)N(CC)CC | C6H15N
reactant | ethynyltrimethylsilane | 139 mmol, 19.5 ml | C(#C)[Si](C)(C)C | C5H10Si
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | CuI | 2.3 mmol, 0.44 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 2.3 mmol, 1.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-((trimethylsilyl)ethynyl)pyridin-3-yl acetate | 41 mmol, 9.7 g | C(C)(=O)OC=1C(=NC=CC1)C#C[Si](C)(C)C | C12H15NO2Si
